US06710043B1
To a solution of O-tert-butyl N-(1-acetylpiperidin-4-yl)carbamate (2.42 g) in dichloromethane (24 ml) was added 4N hydrogen chloride in dioxane (24 ml). The solvents were removed under reduced pressure. After rinse with diisopropyl ether, 1-acetyl-4-aminopiperidine hydrochloride (2.02 g) was obtained.

reactant | O-tert-butyl N-(1-acetylpiperidin-4-yl)carbamate | 2.42 g | C(C)(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C12H22N2O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 24 ml | ClCCl | CH2Cl2
solvent | dioxane | 24 ml | O1CCOCC1 | C4H8O2
product | 1-acetyl-4-aminopiperidine hydrochloride | 2.02 g | Cl.C(C)(=O)N1CCC(CC1)N | InChI=1S/C7H14N2O.ClH/c1-6(10)9-4-2-7(8)3-5-9;/h7H,2-5,8H2,1H3;1H
